US04263398
9(p-Diethylaminophenyl)-9-methoxy-10-phenylacridan (12.0 g, 0.0276 mole) is slurried in 150 ml of tetrahydrofuran while anhydrous hydrogen chloride is bubbled in with cooling. The hydrogen chloride is bubbled in until the slurry reaches a pH of 1.0 and a bright yellow color is obtained. The product is collected on a Buchner funnel, washed twice with 10 ml portions of tetrahydrofuran and dried at 50° C. to give 11.6 g (95.8% yield) of 9(p-diethylaminophenyl)-9-chloro-10-phenylacridan.

reactant | 9(p-Diethylaminophenyl)-9-methoxy-10-phenylacridan | 0.0276 mole, 12.0 g | C(C)N(C1=CC=C(C=C1)C1(C2=CC=CC=C2N(C=2C=CC=CC12)C1=CC=CC=C1)OC)CC | C30H30N2O
reactant | hydrogen chloride | Cl | ClH
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 9(p-diethylaminophenyl)-9-chloro-10-phenylacridan | 11.6 g, 95.8% yield | C(C)N(C1=CC=C(C=C1)C1(C2=CC=CC=C2N(C=2C=CC=CC12)C1=CC=CC=C1)Cl)CC | C29H27ClN2
